* /home/mallikarjuna/downloads/esim-1.1.2/src/subcircuitlibrary/4to16_demux/4to16_demux.cir

.include 5_nand.sub
* u3  net-_u1-pad23_ net-_u3-pad2_ d_inverter
* u4  net-_u1-pad22_ net-_u4-pad2_ d_inverter
* u5  net-_u1-pad21_ net-_u5-pad2_ d_inverter
* u6  net-_u1-pad20_ net-_u6-pad2_ d_inverter
* u2  net-_u1-pad19_ net-_u1-pad18_ net-_u2-pad3_ d_nor
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ? net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ ? port
x1 net-_u3-pad2_ net-_u4-pad2_ net-_u5-pad2_ net-_u6-pad2_ net-_u2-pad3_ net-_u1-pad1_ 5_nand
x2 net-_u1-pad23_ net-_u4-pad2_ net-_u5-pad2_ net-_u6-pad2_ net-_u2-pad3_ net-_u1-pad2_ 5_nand
x3 net-_u3-pad2_ net-_u1-pad22_ net-_u5-pad2_ net-_u6-pad2_ net-_u2-pad3_ net-_u1-pad3_ 5_nand
x4 net-_u1-pad23_ net-_u1-pad22_ net-_u5-pad2_ net-_u6-pad2_ net-_u2-pad3_ net-_u1-pad4_ 5_nand
x5 net-_u3-pad2_ net-_u4-pad2_ net-_u1-pad21_ net-_u6-pad2_ net-_u2-pad3_ net-_u1-pad5_ 5_nand
x6 net-_u1-pad23_ net-_u4-pad2_ net-_u1-pad21_ net-_u6-pad2_ net-_u2-pad3_ net-_u1-pad6_ 5_nand
x7 net-_u3-pad2_ net-_u1-pad22_ net-_u1-pad21_ net-_u6-pad2_ net-_u2-pad3_ net-_u1-pad7_ 5_nand
x8 net-_u1-pad23_ net-_u1-pad22_ net-_u1-pad21_ net-_u6-pad2_ net-_u2-pad3_ net-_u1-pad8_ 5_nand
x9 net-_u3-pad2_ net-_u4-pad2_ net-_u5-pad2_ net-_u1-pad20_ net-_u2-pad3_ net-_u1-pad9_ 5_nand
x10 net-_u1-pad23_ net-_u4-pad2_ net-_u5-pad2_ net-_u1-pad20_ net-_u2-pad3_ net-_u1-pad10_ 5_nand
x11 net-_u3-pad2_ net-_u1-pad22_ net-_u5-pad2_ net-_u1-pad20_ net-_u2-pad3_ net-_u1-pad11_ 5_nand
x12 net-_u1-pad23_ net-_u1-pad22_ net-_u5-pad2_ net-_u1-pad20_ net-_u2-pad3_ net-_u1-pad13_ 5_nand
x13 net-_u3-pad2_ net-_u4-pad2_ net-_u1-pad21_ net-_u1-pad20_ net-_u2-pad3_ net-_u1-pad14_ 5_nand
x14 net-_u1-pad23_ net-_u4-pad2_ net-_u1-pad21_ net-_u1-pad20_ net-_u2-pad3_ net-_u1-pad15_ 5_nand
x15 net-_u3-pad2_ net-_u1-pad22_ net-_u1-pad21_ net-_u1-pad20_ net-_u2-pad3_ net-_u1-pad16_ 5_nand
x16 net-_u1-pad23_ net-_u1-pad22_ net-_u1-pad21_ net-_u1-pad20_ net-_u2-pad3_ net-_u1-pad17_ 5_nand
a1 net-_u1-pad23_ net-_u3-pad2_ u3
a2 net-_u1-pad22_ net-_u4-pad2_ u4
a3 net-_u1-pad21_ net-_u5-pad2_ u5
a4 net-_u1-pad20_ net-_u6-pad2_ u6
a5 [net-_u1-pad19_ net-_u1-pad18_ ] net-_u2-pad3_ u2
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u2 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
