* Subcircuit AS321_Sub
.subckt AS321_Sub net-_q6-pad2_ net-_i3-pad2_ net-_r1-pad1_ net-_i5-pad1_ net-_i1-pad1_ 
* c:\fossee\esim\library\subcircuitlibrary\as321_sub\as321_sub.cir
.include NPN.lib
.include PNP.lib
i1  net-_i1-pad1_ net-_i1-pad2_ 6ua
i2  net-_i1-pad1_ net-_i2-pad2_ 4ua
i4  net-_i1-pad1_ net-_c1-pad1_ 100ua
q2 net-_q2-pad1_ net-_q1-pad3_ net-_i1-pad2_ Q2N2907A
q1 net-_i3-pad2_ net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
q5 net-_c1-pad2_ net-_q5-pad2_ net-_i1-pad2_ Q2N2907A
q6 net-_i3-pad2_ net-_q6-pad2_ net-_q5-pad2_ Q2N2907A
q3 net-_q2-pad1_ net-_q2-pad1_ net-_i3-pad2_ Q2N2222
q4 net-_c1-pad2_ net-_q2-pad1_ net-_i3-pad2_ Q2N2222
q7 net-_i3-pad2_ net-_c1-pad2_ net-_i2-pad2_ Q2N2907A
q8 net-_i1-pad1_ net-_i2-pad2_ net-_i3-pad1_ Q2N2222
c1  net-_c1-pad1_ net-_c1-pad2_ 20pf
i3  net-_i3-pad1_ net-_i3-pad2_ 50ua
q9 net-_c1-pad1_ net-_i3-pad1_ net-_i3-pad2_ Q2N2222
q10 net-_c1-pad1_ net-_q10-pad2_ net-_i5-pad1_ Q2N2222
i5  net-_i5-pad1_ net-_i3-pad2_ 50ua
q13 net-_i3-pad2_ net-_c1-pad1_ net-_i5-pad1_ Q2N2907A
r3  net-_q10-pad2_ net-_i5-pad1_ 500
q11 net-_i1-pad1_ net-_c1-pad1_ net-_q11-pad3_ Q2N2222
q12 net-_i1-pad1_ net-_q11-pad3_ net-_q10-pad2_ Q2N2222
r2  net-_q1-pad2_ net-_i5-pad1_ 8k
r1  net-_r1-pad1_ net-_q1-pad2_ 2k
* Control Statements

.ends AS321_Sub