* C:\FOSSEE\eSim\library\SubcircuitLibrary\Adder_2bit\Adder_2bit.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 06/02/22 13:42:53

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M18  Net-_M18-Pad1_ Net-_M1-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M28  Net-_M18-Pad1_ Net-_M14-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M19  Net-_M19-Pad1_ Net-_M19-Pad2_ Net-_M18-Pad1_ Net-_M18-Pad1_ eSim_MOS_P		
M29  Net-_M19-Pad1_ Net-_M10-Pad2_ Net-_M18-Pad1_ Net-_M18-Pad1_ eSim_MOS_P		
M67  Net-_M64-Pad1_ Net-_M13-Pad1_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M64  Net-_M64-Pad1_ Net-_M13-Pad1_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M42  Net-_M19-Pad1_ Net-_M17-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M20  Net-_M20-Pad1_ Net-_M1-Pad2_ Net-_M19-Pad1_ Net-_M19-Pad1_ eSim_MOS_P		
M30  Net-_M20-Pad1_ Net-_M10-Pad2_ Net-_M19-Pad1_ Net-_M19-Pad1_ eSim_MOS_P		
M21  Net-_M13-Pad1_ Net-_M19-Pad2_ Net-_M20-Pad1_ Net-_M20-Pad1_ eSim_MOS_P		
M31  Net-_M13-Pad1_ Net-_M14-Pad2_ Net-_M20-Pad1_ Net-_M20-Pad1_ eSim_MOS_P		
M43  Net-_M13-Pad1_ Net-_M11-Pad2_ Net-_M19-Pad1_ Net-_M19-Pad1_ eSim_MOS_P		
M13  Net-_M13-Pad1_ Net-_M1-Pad2_ Net-_M13-Pad3_ Net-_M13-Pad3_ eSim_MOS_N		
M14  Net-_M13-Pad3_ Net-_M14-Pad2_ Net-_M14-Pad3_ Net-_M14-Pad3_ eSim_MOS_N		
M24  Net-_M13-Pad1_ Net-_M19-Pad2_ Net-_M24-Pad3_ Net-_M24-Pad3_ eSim_MOS_N		
M25  Net-_M24-Pad3_ Net-_M10-Pad2_ Net-_M14-Pad3_ Net-_M14-Pad3_ eSim_MOS_N		
M17  Net-_M14-Pad3_ Net-_M17-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M35  Net-_M13-Pad1_ Net-_M1-Pad2_ Net-_M35-Pad3_ Net-_M35-Pad3_ eSim_MOS_N		
M36  Net-_M35-Pad3_ Net-_M10-Pad2_ Net-_M36-Pad3_ Net-_M36-Pad3_ eSim_MOS_N		
M49  Net-_M13-Pad1_ Net-_M19-Pad2_ Net-_M49-Pad3_ Net-_M49-Pad3_ eSim_MOS_N		
M50  Net-_M49-Pad3_ Net-_M14-Pad2_ Net-_M36-Pad3_ Net-_M36-Pad3_ eSim_MOS_N		
M41  Net-_M36-Pad3_ Net-_M11-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M7  Net-_M19-Pad2_ Net-_M1-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M6  Net-_M19-Pad2_ Net-_M1-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M61  Net-_M14-Pad2_ Net-_M10-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M63  Net-_M14-Pad2_ Net-_M10-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M58  Net-_M17-Pad2_ Net-_M11-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M59  Net-_M17-Pad2_ Net-_M11-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M3  Net-_M10-Pad1_ Net-_M1-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M10  Net-_M10-Pad1_ Net-_M10-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M4  Net-_M11-Pad1_ Net-_M10-Pad2_ Net-_M10-Pad1_ Net-_M10-Pad1_ eSim_MOS_P		
M11  Net-_M11-Pad1_ Net-_M11-Pad2_ Net-_M10-Pad1_ Net-_M10-Pad1_ eSim_MOS_P		
M5  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M11-Pad1_ Net-_M11-Pad1_ eSim_MOS_P		
M12  Net-_M1-Pad1_ Net-_M11-Pad2_ Net-_M11-Pad1_ Net-_M11-Pad1_ eSim_MOS_P		
M1  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ eSim_MOS_N		
M2  Net-_M1-Pad3_ Net-_M10-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M8  Net-_M1-Pad1_ Net-_M10-Pad2_ Net-_M8-Pad3_ Net-_M8-Pad3_ eSim_MOS_N		
M9  Net-_M8-Pad3_ Net-_M11-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M15  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M15-Pad3_ Net-_M15-Pad3_ eSim_MOS_N		
M16  Net-_M15-Pad3_ Net-_M11-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M23  Net-_M22-Pad1_ Net-_M1-Pad1_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M22  Net-_M22-Pad1_ Net-_M1-Pad1_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M54  Net-_M54-Pad1_ Net-_M26-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M68  Net-_M54-Pad1_ Net-_M48-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M55  Net-_M55-Pad1_ Net-_M37-Pad1_ Net-_M54-Pad1_ Net-_M54-Pad1_ eSim_MOS_P		
M69  Net-_M55-Pad1_ Net-_M27-Pad2_ Net-_M54-Pad1_ Net-_M54-Pad1_ eSim_MOS_P		
M84  Net-_M83-Pad1_ Net-_M47-Pad1_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M83  Net-_M83-Pad1_ Net-_M47-Pad1_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M75  Net-_M55-Pad1_ Net-_M53-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M56  Net-_M56-Pad1_ Net-_M26-Pad2_ Net-_M55-Pad1_ Net-_M55-Pad1_ eSim_MOS_P		
M70  Net-_M56-Pad1_ Net-_M27-Pad2_ Net-_M55-Pad1_ Net-_M55-Pad1_ eSim_MOS_P		
M57  Net-_M47-Pad1_ Net-_M37-Pad1_ Net-_M56-Pad1_ Net-_M56-Pad1_ eSim_MOS_P		
M71  Net-_M47-Pad1_ Net-_M48-Pad2_ Net-_M56-Pad1_ Net-_M56-Pad1_ eSim_MOS_P		
M76  Net-_M47-Pad1_ Net-_M22-Pad1_ Net-_M55-Pad1_ Net-_M55-Pad1_ eSim_MOS_P		
M47  Net-_M47-Pad1_ Net-_M26-Pad2_ Net-_M47-Pad3_ Net-_M47-Pad3_ eSim_MOS_N		
M48  Net-_M47-Pad3_ Net-_M48-Pad2_ Net-_M48-Pad3_ Net-_M48-Pad3_ eSim_MOS_N		
M65  Net-_M47-Pad1_ Net-_M37-Pad1_ Net-_M65-Pad3_ Net-_M65-Pad3_ eSim_MOS_N		
M66  Net-_M65-Pad3_ Net-_M27-Pad2_ Net-_M48-Pad3_ Net-_M48-Pad3_ eSim_MOS_N		
M53  Net-_M48-Pad3_ Net-_M53-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M72  Net-_M47-Pad1_ Net-_M26-Pad2_ Net-_M72-Pad3_ Net-_M72-Pad3_ eSim_MOS_N		
M73  Net-_M72-Pad3_ Net-_M27-Pad2_ Net-_M73-Pad3_ Net-_M73-Pad3_ eSim_MOS_N		
M77  Net-_M47-Pad1_ Net-_M37-Pad1_ Net-_M77-Pad3_ Net-_M77-Pad3_ eSim_MOS_N		
M78  Net-_M77-Pad3_ Net-_M48-Pad2_ Net-_M73-Pad3_ Net-_M73-Pad3_ eSim_MOS_N		
M74  Net-_M73-Pad3_ Net-_M22-Pad1_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M38  Net-_M37-Pad1_ Net-_M26-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M37  Net-_M37-Pad1_ Net-_M26-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M81  Net-_M48-Pad2_ Net-_M27-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M82  Net-_M48-Pad2_ Net-_M27-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M79  Net-_M53-Pad2_ Net-_M22-Pad1_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M80  Net-_M53-Pad2_ Net-_M22-Pad1_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M32  Net-_M32-Pad1_ Net-_M26-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M44  Net-_M32-Pad1_ Net-_M27-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M33  Net-_M33-Pad1_ Net-_M27-Pad2_ Net-_M32-Pad1_ Net-_M32-Pad1_ eSim_MOS_P		
M45  Net-_M33-Pad1_ Net-_M22-Pad1_ Net-_M32-Pad1_ Net-_M32-Pad1_ eSim_MOS_P		
M34  Net-_M26-Pad1_ Net-_M26-Pad2_ Net-_M33-Pad1_ Net-_M33-Pad1_ eSim_MOS_P		
M46  Net-_M26-Pad1_ Net-_M22-Pad1_ Net-_M33-Pad1_ Net-_M33-Pad1_ eSim_MOS_P		
M26  Net-_M26-Pad1_ Net-_M26-Pad2_ Net-_M26-Pad3_ Net-_M26-Pad3_ eSim_MOS_N		
M27  Net-_M26-Pad3_ Net-_M27-Pad2_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M39  Net-_M26-Pad1_ Net-_M27-Pad2_ Net-_M39-Pad3_ Net-_M39-Pad3_ eSim_MOS_N		
M40  Net-_M39-Pad3_ Net-_M22-Pad1_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M51  Net-_M26-Pad1_ Net-_M26-Pad2_ Net-_M51-Pad3_ Net-_M51-Pad3_ eSim_MOS_N		
M52  Net-_M51-Pad3_ Net-_M22-Pad1_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
M62  Net-_M60-Pad1_ Net-_M26-Pad1_ Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M60  Net-_M60-Pad1_ Net-_M26-Pad1_ Net-_M16-Pad3_ Net-_M16-Pad3_ eSim_MOS_N		
U1  Net-_M27-Pad2_ Net-_M26-Pad2_ Net-_M10-Pad2_ Net-_M1-Pad2_ Net-_M16-Pad3_ Net-_M11-Pad2_ Net-_M64-Pad1_ Net-_M83-Pad1_ Net-_M10-Pad3_ Net-_M60-Pad1_ PORT		

.end
